US06797718B2
Under a nitrogen atmosphere, a solution of 4-chlorobenzenethiol (868 mg, 6.00 mmol) in DMF (5 mL) was added to a mixture of sodium hydride (60% dispersion, 240 mg, 6.00 mmol) in DMF (15 mL); the reaction became homogeneous and was stirred for 15 minutes. Solid 1-(5-chloropentyl)-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine (1.93 g, 5.00 mmol) was added in small amounts, and the reaction was stirred for 1.5 hours. Water (25 mL) was added, and the resulting solution was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with water (5×30 mL) and brine (2×10 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a colorless oil, which crystallized overnight. The solid was dried for three hours under high vacuum to provide 2.58 g of 1-[5-(4-chlorophenylsulfanyl)pentyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine as a white solid.

reactant | 4-chlorobenzenethiol | 6.00 mmol, 868 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydride | 6.00 mmol, 240 mg | [H-].[Na+]
reactant | 1-(5-chloropentyl)-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine | 5.00 mmol, 1.93 g | ClCCCCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)CCC | C22H28ClN3O
reactant | Water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-[5-(4-chlorophenylsulfanyl)pentyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine | 2.58 g | ClC1=CC=C(C=C1)SCCCCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)CCC | C28H32ClN3OS
